US05250567
trans-[(2-Hydroxycyclopentyl)thio]acetic acid
Mercaptoacetic acid (22.5g 0.244 mole) was added to a cold (+5° C.) solution of sodium methoxide [prepared from sodium (11.2 g, 0.488 mole)] in methanol (125 ml). After stirring for 20 minutes, cyclopentene oxide (19.5 g, 0.23 mole) was added dropwise over 20 minutes to the cold solution. The ice bath was removed and the reaction was refluxed for 45 minutes. The reaction was cooled to room temperature and made acidic by the addition of 4N hydrochloric acid. Water (100 ml) was added and the mixture was extracted twice with 150 ml of diethyl ether. The combined diethyl ether extracts were washed with water (50 ml), dried over anhydrous magnesium sulfate, filtered and concentrated to an oil with a rotary evaporator. The structure was confirmed by NMR spectroscopy.

reactant | Mercaptoacetic acid | 0.244 mole, 22.5g | SCC(=O)O | C2H4O2S
reactant | sodium methoxide | 0.488 mole, 11.2 g | C[O-].[Na+]
reactant | cyclopentene oxide | 0.23 mole, 19.5 g | C12C(CCC1)O2 | C5H8O
solvent | methanol | 125 ml | CO | CH4O
product | trans-[(2-Hydroxycyclopentyl)thio]acetic acid | O[C@H]1[C@@H](CCC1)SCC(=O)O | C7H12O3S
